US08471005B2
3-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one was prepared from 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as a yellow solid (55 mg, 42%). m.p.=249-251° C.; LCMS (m/e) 443 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.68 (s, 1H), 7.95 (d, 1H, J=7.6 Hz), 7.55 (d, 2H, J=8.4 Hz), 7.46-7.38 (m, 1H), 7.24 (d, 2H, J=8.4 Hz), 7.17-7.09 (m, 1H), 7.06 (d, 1H, J=8.3 Hz), 7.01 (d, 1H, J=4.6 Hz), 6.84 (d, 1H, J=4.6 Hz), 6.79 (bs, 1H), 3.84 (s, 3H), 3.77-3.68 (m, 1H), 3.66 (s, 1H), 3.24-3.17 (m, 1H), 3.05-2.97 (m, 1H), 2.98 (s, 3H), 2.71-2.61 (m, 1H), 2.17 (s, 3H).

reactant | 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC1=CC=C(C=C1)C1C(N(CCN1C)C)=O | C12H17N3O
product | 3-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2C(N(CCN2C)C)=O | C25H26N6O2
